US04225723
(a) 2-cyano-2-(2-pyridyl)-2-phenyl ethanol
To an ice cold stirred solution of phenyl-2-pyridyl acetonitrile* (50 g., 0.26 mole) in 350 ml. of pyridine containing a suspension of paraformaldehyde (31 g., 1.0 mole) is added 1 ml. of benzyl triethylammonium hydroxide. The mixture is stirred under nitrogen at room temperature for 24 hours. The reaction mixture is poured into water and extracted with ether. The combined ether extracts are washed with water, saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated to give a thick oil 58 g, which is identified by nmr.

reactant | phenyl-2-pyridyl acetonitrile | C1(=CC=CC=C1)C(C#N)C1=NC=CC=C1 | C13H10N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | paraformaldehyde | 1.0 mole, 31 g | C=O | CH2O
reactant | benzyl triethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 2-cyano-2-(2-pyridyl)-2-phenyl ethanol | 58 g | C(#N)C(CO)(C1=CC=CC=C1)C1=NC=CC=C1 | C14H12N2O
